US09169254B2
1 N NaOH (8.60 ml, 8.60 mmol) and a 30% H2O2 solution (4.30 ml) were added to a solution of 4-(3-chloro-2-fluoro-benzoylamino)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (1.63 g, 4.28 mmol) in THF (8.60 ml) at room temperature, and the mixture was stirred at room temperature for two hours. The reaction mixture was adjusted to pH 6 by adding 2 N HCl and then extracted with ethyl acetate three times. The organic layers were sequentially washed with H2O (×2) and saturated brine, and then dried over Na2SO4 and concentrated under reduced pressure. The resulting residue was triturated with H2O, and the solid was collected by filtration. The resulting solid was washed with Et2O and then dried under reduced pressure to give 4-carbamoyl-4-(3-chloro-2-fluoro-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white powder (1.30 g, 76%).

reactant | NaOH | 8.60 mmol, 1 N, 8.60 ml | [OH-].[Na+]
reactant | H2O2 | 4.30 ml | OO | H2O2
reactant | 4-(3-chloro-2-fluoro-benzoylamino)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 4.28 mmol, 1.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)NC(C1=C(C(=CC=C1)Cl)F)=O | C18H21ClFN3O3
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 8.60 ml | C1CCOC1 | C4H8O
product | 4-carbamoyl-4-(3-chloro-2-fluoro-benzoylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.30 g, 76% | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(C1=C(C(=CC=C1)Cl)F)=O)C(N)=O | C18H23ClFN3O4
